US05013477
42 g of crude 4-[trans-4-[2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]cyclohexanecarboxamide were suspended in 500 ml of ethylene glycol while gassing with argon and then treated with 19 g of solid potassium hydroxide. The mixture was heated to 180° C. (bath temperature) for 5 hours while stirring. After cooling the reaction mixture was poured into 500 ml of water, acidified to pH about 3 with 10 percent hydrochloric acid and extracted three times with 300 ml of methylene chloride each time. The combined organic phases were washed once with 500 ml of 1 percent hydrochloric acid and twice with 500 ml of water each time, dried over magnesium sulfate, filtered and evaporated. The dark brown crude product (41 g) was purified by chromatography on silica gel with ethyl acetate. Crystallization of the product obtained (36 g) from acetone gave 13.8 g of pure trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]cyclohexanecarboxylic acid. Working-up of the mother liquor gave a further 2.5 g of pure product.

reactant | 4-[trans-4-[2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]cyclohexanecarboxamide | 42 g | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)C1CCC(CC1)C(=O)N | C18H31NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol | 500 ml | C(CO)O | C2H6O2
product | trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]cyclohexanecarboxylic acid | 13.8 g | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C18H30O4
